US04925838
To a solution of allyl (4R,5S,6S)-6-[(1R)-1-hydroxyethyl]-3-[(2S,4S)-2-(2,5-dioxoimidazolidin-1-yl)methyl-1-(4-nitrobenzyloxycarbonyl)pyrrolidin-4-yl]thio-4-methyl-7-oxo-1-azabicyclo[3.2.0]hept-2-ene-2-carboxylate (1.44 g) in tetrahydrofuran (30 ml) were added triphenylphosphine (0.29 g), sodium 2-ethylhexanoate (0.41 g) and tetrakis(triphenylphosphine)palladium(0) (0.13 g) successively with stirring at ambient temperature After stirring at the same temperature for 1 hour, the reaction mixture was evaporated in vacuo to give a residue. A mixture of the residue, 20% palladium hydroxide on carbon (0.5 g), 0.1M phosphoric acid buffer (pH 5.8,60 ml) and tetrahydrofuran (60 ml) was stirred for 5 hours under atmospheric pressure of hydrogen at ambient temperature. After the catalyst was filtered off, the filtrate was evaporated in vacuo to remove the organic solvent. The residue was chromatographed on nonionic adsorption resin, "Diaion HP-20" (Trademark, made by Mitsubishi Chemical Industries)(30 ml) eluting in turn with water (80 ml) and 5% aqueous acetone (90 ml). The fractions containing the desired compound were collected and lyophilized to give (4R,5S,6S)-6-[(1R)-1-hydroxyethyl]-3-[(2S,4S)-2-(2,5-dioxoimidazolidin-1-yl)methylpyrrolidin-4-yl]thio-4-methyl-7-oxo-1-azabicyclo[3.2.0]hept-2-ene-2-carboxylic acid (0.40 g).

reactant | allyl (4R,5S,6S)-6-[(1R)-1-hydroxyethyl]-3-[(2S,4S)-2-(2,5-dioxoimidazolidin-1-yl)methyl-1-(4-nitrobenzyloxycarbonyl)pyrrolidin-4-yl]thio-4-methyl-7-oxo-1-azabicyclo[3.2.0]hept-2-ene-2-carboxylate | 1.44 g | O[C@H](C)[C@@H]1[C@H]2[C@H](C(=C(N2C1=O)C(=O)OCC=C)S[C@H]1C[C@H](N(C1)C(=O)OCC1=CC=C(C=C1)[N+](=O)[O-])CN1C(NCC1=O)=O)C | C29H33N5O10S
reactant | triphenylphosphine | 0.29 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | sodium 2-ethylhexanoate | 0.41 g | C(C)C(C(=O)[O-])CCCC.[Na+]
reactant | phosphoric acid | 0.1M, 60 ml, pH 5.8 | P(O)(O)(O)=O | H3O4P
reactant | hydrogen | [H][H] | H2
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
catalyst | tetrakis(triphenylphosphine)palladium(0) | 0.13 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
catalyst | palladium hydroxide on carbon | 0.5 g | [OH-].[OH-].[Pd+2]
solvent | tetrahydrofuran | 60 ml | O1CCCC1 | C4H8O
product | (4R,5S,6S)-6-[(1R)-1-hydroxyethyl]-3-[(2S,4S)-2-(2,5-dioxoimidazolidin-1-yl)methylpyrrolidin-4-yl]thio-4-methyl-7-oxo-1-azabicyclo[3.2.0]hept-2-ene-2-carboxylic acid | 0.40 g | O[C@H](C)[C@@H]1[C@H]2[C@H](C(=C(N2C1=O)C(=O)O)S[C@H]1C[C@H](NC1)CN1C(NCC1=O)=O)C | C18H24N4O6S
